* PROJECT JANUS MINI-16: EXTRACTED 3D ELECTRO-PHOTONIC PARASITIC SUBCIRCUIT
* Generated from GDS II Layouts: janus_mini16_layout.gds & janus_mini16_cmos_base_layout.gds
* Operating Frequency: 100.0 GHz | Dielectric: SiO2/Polymer Dual-Stratum Hybrid
*
.SUBCKT JANUS_PEX_INTERCONNECT PIN_APD_ANODE PIN_APD_CATHODE PIN_LATCH_INP PIN_LATCH_INM GND
*
* 1. SAC2M Ge/Si APD Junction Model
R_APD_SERIES PIN_APD_ANODE N_APD_INT 28.500
C_APD_JUNCTION N_APD_INT PIN_APD_CATHODE 11.820fF
*
* 2. 3D Cu-Cu Hybrid Bonding Micro-Pads & TDVs
* Positive Differential Arm
L_VIA_P N_APD_INT N_PAD_P 0.916pH
R_VIA_P N_PAD_P N_LINE_P 9.310m
C_PAD_P N_PAD_P GND 2.771fF
* Negative Differential Arm
L_VIA_M PIN_APD_CATHODE N_PAD_M 0.916pH
R_VIA_M N_PAD_M N_LINE_M 9.310m
C_PAD_M N_PAD_M GND 2.771fF
*
* 3. 100 GHz CPW Interconnect Traces (35 um Distributed Pi-Network)
* Positive Arm
R_LINE_P1 N_LINE_P N_MID_P 0.713
L_LINE_P1 N_MID_P PIN_LATCH_INP 3.805pH
C_LINE_P1 N_MID_P GND 2.194fF
G_LINE_P1 N_MID_P GND 2.757u
* Negative Arm
R_LINE_M1 N_LINE_M N_MID_M 0.713
L_LINE_M1 N_MID_M PIN_LATCH_INM 3.805pH
C_LINE_M1 N_MID_M GND 2.194fF
G_LINE_M1 N_MID_M GND 2.757u
* Mutual Inter-Trace Coupling
C_MUTUAL_PM N_MID_P N_MID_M 1.097fF
*
* 4. StrongARM Sense Latch Gate Input Capacitance
C_GATE_INP PIN_LATCH_INP GND 10.240fF
C_GATE_INM PIN_LATCH_INM GND 10.240fF
*
.ENDS JANUS_PEX_INTERCONNECT
